US07838524B2
1-{5-tert-Butyl-2-[4-(2-methoxy-ethoxymethyl)-phenyl]-2H-pyrazol-3-yl}-3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-urea
To a solution of 1-[5-tert-butyl-2-(4-hydroxymethyl-phenyl)-2H-pyrazol-3-yl]-3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl)-urea (170 mg, 0.35 mmol) in anhydrous THF was added K2CO3 (52 mg, 0.38 mmol) followed by methanesulfonyl chloride (30 μL, 0.38 mmol). The mixture was stirred at room temperature for one day, and then 2-methoxy-ethanol (213 mg, 3.5 mmol) was added. The mixture was stirred at room temperature overnight, then EtOAc was added followed by saturated Na2CO3. The organic layer was washed with saturated Na2CO3 and brine, dried over MgSO4 and evaporated at reduced pressure. Purification by HPLC (10% to 90% aq acetonitrile afforded pure product (10 mg, 5%). 1H-NMR (CD3OD) δ 8.17 (d, J=6.0 Hz, 1H), 8.01 (t, J=9.3 Hz, 1H), 7.48-7.37 (m, 4H), 6.93-6.69 (m, 4H), 6.36 (s, 1H), 4.54 (s, 2H), 3.58 (m, 2H), 3.50 (m, 2H), 3.28 (s, 3H), 2.37 (s, 3H), 1.25 (s, 9H); MS LC-MS [M+H]+=548.1, RT=2.69 min.

reactant | 1-[5-tert-butyl-2-(4-hydroxymethyl-phenyl)-2H-pyrazol-3-yl]-3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl)-urea | 0.35 mmol, 170 mg | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)CO)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C)F | C27H28FN5O3
reactant | K2CO3 | 0.38 mmol, 52 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methanesulfonyl chloride | 0.38 mmol, 30 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-methoxy-ethanol | 3.5 mmol, 213 mg | COCCO | C3H8O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-{5-tert-Butyl-2-[4-(2-methoxy-ethoxymethyl)-phenyl]-2H-pyrazol-3-yl}-3-[2-fluoro-4-(2-methyl-pyridin-4-yloxy)-phenyl]-urea | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)COCCOC)NC(=O)NC1=C(C=C(C=C1)OC1=CC(=NC=C1)C)F | C30H34FN5O4
